US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(3-ethoxypropyl)thiopurine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (80 mg, 0.65 mmol) was suspended in dimethylformamide (60 ml). To the suspension were added potassium carbonate (150 mg, 1.1 mmol) and 2-ethoxypropyl p-toluenesulfonate (280 mg, 1.1 mmol) in order. The mixture was stirred at room temperature for 4 hours. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (5% methanol/chloroform) to give the subject compound (69 mg, yield 30%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.65 mmol, 80 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethoxypropyl p-toluenesulfonate | 1.1 mmol, 280 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)OCC)C | C12H18O4S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-(3-ethoxypropyl)thiopurine | 69 mg, yield 30% | NC1=C2N=C(N(C2=NC(=N1)SCCCOCC)CC1=CC=CC=C1)O | C17H21N5O2S
